US06500863B1
3-Amino-6-chloro-2-hydroxybenzenesulfonamide
To a solution of 6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (1.1 g, 4.36 mmol) in ethyl acetate, was added 10% Pd/C (500 mg). The mixture was flushed with argon, and then stirred under a hydrogen atmosphere at balloon pressure for 4 hours at room temperature. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated to give the desired product (0.9g, 93%). EI-MS (m/z) 221.1, 223.1 (M−).

reactant | 6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 4.36 mmol, 1.1 g | ClC1=CC=C(C(=C1S(=O)(=O)N)O)[N+](=O)[O-] | C6H5ClN2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 3-Amino-6-chloro-2-hydroxybenzenesulfonamide | 0.9g, 93% | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
